US05166347
Preparation of N-cyano-N'-(3-nitroxypropyl)-3-pyridinecarboximidamide (method i)
Isopropyl N-cyano-3-pyridinecarboximidate (0.50 g, 2.6 mmol) was dissolved in methanol (10 ml), and 3-nitroxypropylamine nitrate (0.53 g, 2.9 mmol) and sodium methoxide (0.16 g, 2.9 mmol) were added. The mixture was stirred at room temperature for 18 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue was extracted with chloroform (30 ml×3). The chloroform layer was washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrated residue thus obtained was subjected to chromatography on a silica gel column (WAKO GEL C-200, 30 g) eluting with chloroform-methanol (60:1). Eluted fractions were concentrated under reduced pressure and crystallized from methanol-diethyl ether to give the title compound (0.26 g, 1.0 mmol, yield: 39%) as colorless crystals.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 2.6 mmol, 0.50 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 3-nitroxypropylamine nitrate | 2.9 mmol, 0.53 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCCN
reactant | sodium methoxide | 2.9 mmol, 0.16 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(3-nitroxypropyl)-3-pyridinecarboximidamide | 1.0 mmol, 0.26 g, yield: 39% | C(#N)NC(=NCCCO[N+](=O)[O-])C=1C=NC=CC1 | C10H11N5O3
